US05155116
EXAMPLE 5: 3-(2-AMINOETHYL)-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE (HYDROCHLORIDE)
0.013 mol of hexamethylenetetramine, dissolved beforehand in 20 cm3 of chloroform, and 0.01 mol of 3-(2-bromoethyl)-3H-oxazolo[4,5-b]pyridin-2-one, dissolved beforehand in 15 cm3 of chloroform, are introduced into a round-bottomed flask placed under argon and surmounted by a condenser. The mixture is heated to reflux for one week. The product is drained and dried. The precipitate is introduced into a ground-necked 250-cm3 flask equipped with a reflux condenser, and 50 cm3 of absolute alcohol and 10 cm3 of concentrated hydrochloric acid are added. The mixture is heated to reflux for two hours with magnetic stirring. The solvent is evaporated off on a water bath under vacuum and the product is recrystallized in alcohol at 95° C.

reactant | hexamethylenetetramine | 0.013 mol | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 3-(2-bromoethyl)-3H-oxazolo[4,5-b]pyridin-2-one | 0.01 mol | BrCCN1C(OC=2C1=NC=CC2)=O | C8H7BrN2O2
solvent | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-AMINOETHYL)-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE | NCCN1C(OC=2C1=NC=CC2)=O | C8H9N3O2
